US07589232B2
Step b) Formation of [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(2-methoxyethoxy)acetyl]amino}methyl)phenoxy]acetic acid
The titled compound was prepared following the procedure F using methyl [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(2-methoxyethoxy)acetyl]amino}methyl)phenoxy]acetate and NaOH 1N in the presence of MeOH/THF as a yellow oil (94%). 1H NMR (DMSO-d6, 300 MHz) δ 7.54-7.43 (m, 4H), 7.24 (m, 4H), 7.14 (d, J=8.3 Hz, 2H), 6.86 (m, 2H), 4.62 (s, 2H), 4.41 (m, 4H), 4.28 (s, 1H), 4.20 (s, 1H), 3.59 (m, 2H), 3.42 (m, 2H), 3.21 (s, 1.5H), 3.19 (s, 1.5H), 2.60 (t, J=7.5 Hz, 2H), 1.55 (m, 2H), 1.30 (m, 2H), 0.89 (t, J=7.2 Hz, 3H). M− (ESI): 542.4; M+ (ESI): 544.4. HPLC, Rt: 4.82 min (Purity: 90.8%).

reactant | methyl [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(2-methoxyethoxy)acetyl]amino}methyl)phenoxy]acetate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(COCCOC)=O)CC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C34H39NO6
reactant | NaOH | 1N | [OH-].[Na+]
solvent | MeOH THF | CO.C1CCOC1
product | [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(2-methoxyethoxy)acetyl]amino}methyl)phenoxy]acetic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(COCCOC)=O)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C33H37NO6
